US09193693B2
Step 2. 2-(Benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-(benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (160 mg, 0.43 mmol, 1.00 equiv) in methanol (20 mL), sodium hydroxide (85 mg, 2.12 mmol, 4.99 equiv), water (2 mL). The resulting solution was stirred for 2 hs at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with hydrogen chloride (2.5 M). The resulting solids were collected by filtration. The crude product (120 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-1): Column, XbridgePrep Shield RP 18, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and CH3CN (58% CH3CN up to 78% in 8 min, up to 100% in 2 min); Detector, UV 220 254 nm. This resulted in 70 mg (45%) of 2-(benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-(benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.43 mmol, 160 mg, 1.00 equiv | O1C(=CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N(C)C(C)C)C(=O)OC | C22H21N3O3
reactant | sodium hydroxide | 2.12 mmol, 85 mg, 4.99 equiv | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 2-(Benzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | O1C(=CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N(C)C(C)C)C(=O)O | C21H19N3O3
